US09382228B2
A solution of 2,2,2-trimethylacetamide (0.062 g, 0.610 mmol) in DCE (3 mL) was treated with oxalyl chloride (0.080 mL, 0.915 mmol), stirred at RT for 1 h, then heated at 75° C. for 3 h. The mixture was cooled to RT, treated with a solution of tert-butyl (4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)(methyl)carbamate (0.12 g, 0.305 mmol) and TEA (0.170 mL, 1.220 mmol) in DCM (3 mL) and stirred at RT for 2 h. The mixture was treated with brine, extracted with DCM (2×) and the combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford tert-butyl methyl(4-((6-(3-pivaloylureido)pyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)carbamate (100 mg, 63%) as a white amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 11.23 (s, 1H), 10.44 (s, 1H), 9.02 (d, J=2.5 Hz, 1H), 8.55 (d, J=5.7 Hz, 1H), 8.37 (dd, J=8.8, 2.5 Hz, 1H), 8.30 (d, J=2.9 Hz, 1H), 8.10 (d, J=9.0 Hz, 1H), 7.77-7.76 (m, 2H), 7.65 (d, J=2.4 Hz, 1H), 6.89 (dd, J=5.7, 2.4 Hz, 1H), 3.33 (s, 3H), 1.47 (s, 9H), 1.21 (s, 9H); MS (ESI) m/z: 521.3 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.610 mmol, 0.062 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.915 mmol, 0.080 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl (4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)(methyl)carbamate | 0.305 mmol, 0.12 g | NC1=CC=C(C=N1)OC1=CC(=NC=C1)C=1C=NC(=CC1)N(C(OC(C)(C)C)=O)C | C21H23N5O3
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | tert-butyl methyl(4-((6-(3-pivaloylureido)pyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)carbamate | 100 mg, 63% | CN(C(OC(C)(C)C)=O)C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=NC(=CC1)NC(=O)NC(C(C)(C)C)=O | C27H32N6O5
